US06919331B2
The procedure used to prepare [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester was followed starting from [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (67 mg, 0.12 mmol). Purification by flash chromatography (eluent 2%, 4% methanol in DCM) afforded [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (51 mg, 76%) as a white solid:

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCCCF)C=C1)=O | C29H34FN5O4
reactant | [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.12 mmol, 67 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCO)C=C1)=O | C28H32F3N5O5
product | [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 51 mg, 76% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCF)C=C1)=O | C28H31F4N5O4
